US09145380B2
b) 4-[2-(4-Bromo-phenyl)-ethanesulfonylamino]-3-sulfamoyl-benzoic acid
To a suspension of 2-[2-(4-bromo-phenyl)-ethanesulfonylamino]-5-methyl-benzenesulfonamide (0.3 g, 0.69 mmol) in water (12 mL) was added 2.5 M sodium hydroxide until a clear solution was obtained (˜12 mL). Potassium permanganate (0.55 g, 3.46 mmol) was added and the resulting reaction mixture was heated at 70° C. for 3 hours. The hot solution was filtered through a pad of Celite and the solids were washed with water. Solid sodium bisulfate was added to the filtrate until the pink color disappeared. The aqueous solution was treated with charcoal, filtered, and the pH was adjusted to pH˜1 using 6 M hydrochloric acid. The formed precipitate was collected by filtration, washed with water, and dried to give 0.22 g (69% yield) of the title compound.

reactant | 2-[2-(4-bromo-phenyl)-ethanesulfonylamino]-5-methyl-benzenesulfonamide | 0.69 mmol, 0.3 g | BrC1=CC=C(C=C1)CCS(=O)(=O)NC1=C(C=C(C=C1)C)S(=O)(=O)N | C15H17BrN2O4S2
reactant | sodium hydroxide | 2.5 M | [OH-].[Na+]
reactant | Potassium permanganate | 3.46 mmol, 0.55 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | water | 12 mL | O | H2O
product | 4-[2-(4-Bromo-phenyl)-ethanesulfonylamino]-3-sulfamoyl-benzoic acid | 0.22 g, 69% yield | BrC1=CC=C(C=C1)CCS(=O)(=O)NC1=C(C=C(C(=O)O)C=C1)S(N)(=O)=O | C15H15BrN2O6S2
